US07439393B2
i) [(2-[(6-Bromohexyl)oxy]ethoxy)methyl]benzene
A solution of 2-(benzyloxy)ethanol (2.00 g) and tetrabutylammonium bromide (84 mg) in 1,6-dibromohexane (6.06 ml) was treated with 50% w/v sodium hydroxide solution (5.0 ml) and the mixture was vigorously stirred for 18 h at 20°. Water (50 ml) was added and the mixture was extracted with dichloromethane (40 ml). The organic extract was dried (Na2SO4) and the solvent evaporated in vacuo to give a residue which was purified by flash chromatography on silica gel. Elution with EtOAc-PE (1:9) gave the title compound (2.87 g). LCMS RT=3.94 min, ES+ve 337 (MNa)+, 339 (MNa)+

reactant | 2-(benzyloxy)ethanol | 2.00 g | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | sodium hydroxide | 5.0 ml | [OH-].[Na+]
reactant | Water | 50 ml | O | H2O
reactant | 1,6-dibromohexane | 6.06 ml | BrCCCCCCBr | C6H12Br2
catalyst | tetrabutylammonium bromide | 84 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | [(2-[(6-Bromohexyl)oxy]ethoxy)methyl]benzene | 2.87 g | BrCCCCCCOCCOCC1=CC=CC=C1 | C15H23BrO2
